* AD8270 SPICE Macro-model        
* Description: Amplifier
* Generic Desc: DiffAmp, Low Cost,low power, G=0.5, 1 or 2
* Developed by: Analog Devices
* Revision History: 
*		01/28/2014 - Initial Revision
* 1.0 (12/2013)
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
* 
* BEGIN Notes:
*
* Not Modelled:
*    AC Bump near cutoff for G=1, G=0.5
*	 Cross talk
*	 1/f noise
* END Notes
*
* Node assignments
.subckt AD8270 in1a_m in2a_m in2a_p in1a_p ref1a ref2a outa vcc vee

*Power supply stage
Evcc i_vcc 0 vcc 0 1
Evee i_vee 0 vee 0 1 
Iq vcc vee 2.5e-3
Gcurr isteer 0 vor outa 1
Dis1 vsense1 isteer genD
Dis2 isteer vsense2 genD
Vs1 vsense1 0 0
Vs2 vsense2 0 0
F1 vcc 0 Vs1 1 
F2 0 vee Vs2 1 

*Input Stage
Voffset in_p in_po 3e-4
G1 0 inputgain in_po in_m 0.01
Rin1 outa in_m 10e3
Rin2 in1a_m in_m 10e3
Rin3 in2a_m in_m 10e3
Rin4 in1a_p in_p 10e3
Rin5 in2a_p in_p 10e3
Rin6 ref1a in_p 20e3
Rin7 ref2a in_p 20e3
Rgain inputgain 0 1e8
Cgain inputgain 0 75e-12



*CFA Slew Limiter
Q1 hsd1 hsd1 inputgain genNPN
Q2 hsd2 hsd1 cfaout genNPN
Q3 lsd1 lsd1 inputgain genPNP
Q4 lsd2 lsd1 cfaout genPNP
I1 i_vcc hsd1 25e-6
I2 i_vcc hsd2 25e-6
I3 lsd1 i_vee 25e-6
I4 lsd2 i_vee 25e-6
D1 hsd2 i_vcc genD
D2 i_vee lsd2 genD
Q5 cfaout hsd2 re2 genPNP
Rlim1 i_vcc re2 5e3
Q6 cfaout lsd2 re1 genNPN
Rlim2 i_vee re1 5e3
Rcfa cfaout cfaout2 150
Ccfa cfaout2 0 75e-12
Vrail_low cfaout lowlim 1.4
D3 i_vee lowlim genD
Vrail_high i_vcc hilim 1.4
D4 cfaout hilim genD

*Output stage
E1 vor 0 cfaout2 0 1
Rout vor outa 1


.model genNPN NPN Is=1e-12 Bf=300 Vaf=100 
.model genPNP PNP Is=1e-12 Bf=300 Vaf=100
.model genD D Is=1e-12
.ENDS